US09415045B2
To tert-butyl 4-(6-oxo-1,6-dihydropyridin-3-yl)phenethylcarbamate (10.25 g, 31.0 mmol) was added aqueous hydrochloric acid (6M, 220 mL) and the reaction mixture stirred at reflux overnight. The reaction was cooled to room temperature and the precipitate was filtered, washed with water (5 mL) and dried under reduced pressure (50° C.). The acidic solution was concentrated under reduced pressure and the resultant solid combined with the filtered solid to give 5-(4-(2-aminoethyl)phenyl)pyridin-2(1H)-one hydrochloride (7.80 g, 31.0 mmol, 100% yield).

reactant | tert-butyl 4-(6-oxo-1,6-dihydropyridin-3-yl)phenethylcarbamate | 31.0 mmol, 10.25 g | O=C1C=CC(=CN1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C18H22N2O3
reactant | hydrochloric acid | 6M, 220 mL | Cl | ClH
product | 5-(4-(2-aminoethyl)phenyl)pyridin-2(1H)-one hydrochloride | 31.0 mmol, 7.80 g, 100% yield | Cl.NCCC1=CC=C(C=C1)C=1C=CC(NC1)=O | InChI=1S/C13H14N2O.ClH/c14-8-7-10-1-3-11(4-2-10)12-5-6-13(16)15-9-12;/h1-6,9H,7-8,14H2,(H,15,16);1H
